US07964757B2
Catechol (22.0 g, 0.2 moles) and diiron trioxide (ferric oxide) (31.9 g, 0.2 moles) were added into water (44 mL), and 98% sulfuric acid (176 g, 1.76 moles) was added dropwise to the solution while temperature of the solution is maintained at 30° C. or lower, to adjust the concentration in percent by weight of sulfuric acid in the reaction system at 80%. The solution was reacted at 30° C. for 6 hours with stirring. After completion of the reaction, water (200 mL) was added dropwise to the reaction solution while temperature of the solution was maintained at 30° C. or lower, and the reaction solution was stirred at the same temperature for another 30 minutes. The resultant precipitate was collected by filtration, and the obtained crude crystal was washed with water. The crude crystal was further dispersed in water (400 mL), and the dispersion liquid was stirred for 30 minutes, and then filtered to collect crystal. After the collected crystal was dispersed in acetone (400 mL), the dispersion liquid was stirred for 30 minutes. After that, the dispersion liquid was filtered to filter off insoluble matter, and activated charcoal (10.81 g) was added to the filtrate, which was then stirred for 30 minutes. After stirring, the filtrate was concentrated under reduced pressure to distill off an excess amount of acetone. Subsequently, water (160 mL) was poured into the concentrated filtrate (solution of about 160 mL). This solution was slowly heated up from 56° C. under normal pressure to concentrate the solution. Crystal precipitated when temperature of the concentrated solution became 70 to 80° C. Concentration was further continued, and stopped when temperature of the concentrated solution became 90° C. The crystal thus precipitated was collected by filtration, and then dried, to give type B′ crystal of 2,3,6,7,10,11-hexahydroxytriphenylene monohydrate (9.32 g, theoretical yield from catechol: 40.8%) in dark yellow powder form. Also, water content of the obtained the type B′ crystal was measured using a Karl-Fischer measuring instrument (Moisture Meter KF-200, manufactured by Mitsubishi Chem. Corp.), and found to be 5.5%. On the other hand, since molecular weight of 2,3,6,7,10,11-hexahydroxytriphenylene monohydrate was 342.30 (C18H12O6.H2O) and that of water was 18.02, and also theoretical water content of 2,3,6,7,10,11-hexahydroxytriphenylene monohydrate was 5.26%, the obtained type B′ crystal was confirmed to be monohydrate of 2,3,6,7,10,11-hexahydroxytriphenylene.

reactant | Catechol | 0.2 moles, 22.0 g | C=1(O)C(O)=CC=CC1 | C6H6O2
reactant | sulfuric acid | 1.76 moles, 176 g | S(O)(O)(=O)=O | H2O4S
catalyst | diiron trioxide | 0.2 moles, 31.9 g | [O-2].[O-2].[O-2].[Fe+2].[Fe+2]
solvent | water | 200 mL | O | H2O
solvent | water | 44 mL | O | H2O
product | 2,3,6,7,10,11-hexahydroxytriphenylene monohydrate | 9.32 g, 40.8% | O.OC1=CC=2C3=CC(=C(C=C3C3=CC(=C(C=C3C2C=C1O)O)O)O)O | InChI=1S/C18H12O6.H2O/c19-13-1-7-8(2-14(13)20)10-4-17(23)18(24)6-12(10)11-5-16(22)15(21)3-9(7)11;/h1-6,19-24H;1H2
